US07064142B2
The solution of t-buthyl N-{(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}-carbamate (50 g) in tetrahydrofuran (700 mL) was dropwise added slowly at 0° C. to 2.5M 4-fluorophenylmagnesium bromide-tetrahydrofuran solution (300 mL) prepared separately, and then the reaction mixture was stirred at room temperature for 14 hours. After the reaction mixture was cooled to 0° C., saturated sodium hydrogen carbonate aqueous solution was added to the reaction mixture, and then the mixture was extracted with ether twice. The organic layer was washed with saturated sodium hydrogen carbonate aqueous solution and saturated sodium chloride aqueous solution in this order and dried over anhydrous sodium sulfate. Sodium sulfate was removed by filtration, and then the organic solvent was evaporated in vacuo. The obtained residue was purified by silica gel column chromatography (C-300; hexane:ethyl acetate=4:1) to give t-butyl N-[(1S)-2-(4-fluorophenyl)-1-methyl-2-oxoethyl]carbamate (57.75 g) as pale yellow solid. The solution of the obtained ketone compound (61.20 g) in ethylene glycol dimethyl ether (500 mL) solution was dropwise added to the solution of 6-fluoro-3-pyridyllithium in diethyl ether (prepared by the reaction of 5-bromo-2-fluoropyridine (59 mL) and 1.6M butyllithium-hexane solution (358 mL) in diethyl ether (1.5 L) solvent at −78° C.) at −78° C. Thereafter the reaction mixture was stirred at −78° C. for 30 minutes, and temperature of the reaction mixture was raised to 0° C. Saturated ammonium chloride aqueous solution was added to the reaction mixture, and the mixture was stirred at room temperature for an additional 15 minutes. After aqueous layer was removed, the organic layer was washed with water and saturated sodium chloride aqueous solution in this order and dried over anhydrous sodium sulfate. Sodium sulfate was removed by filtration, and then the organic solvent was evaporated in vacuo. The residue was dissolved in a little ethyl acetate, and excess diisopropyl ether was added to the solution to precipitate t-butyl N-[(1S)-2-(4-fluorophenyl)-2-(6-fluoro-3-pyridyl)-2-hydroxy-1-methylethyl]carbamate. The precipitate was filtered (yield 74.35 g). The precipitate was treated with 4N hydrogen chloride-ethyl acetate solution to give (2S)-2-amino-1-(4-fluorophenyl)-1-(6-fluoro-3-pyridyl)-1-propanol (32.8 g). The obtained hydroxyamino compound was converted into aziridine by the method similar to the method described in Reference Example 4 to give 2-fluoro-5-[(3S)-2-(4-fluorophenyl)-3-methyl-2-aziridinyl]-pyridine. The obtained aziridine compound was converted into azide by the method similar to the method described in Reference Example 4, and then the azide compound was reduced by the addition of hydrogen to give the title diamine. Besides, the ratio of diastereomers in 2nd position of aziridine ring is about 3:2, and the diastereomers can be separated by silica gel column chromatography (C-300; hexane:ethyl acetate=6:4→4:6).

reactant | N-{(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}-carbamate | 50 g | CON(C([C@H](C)NC([O-])=O)=O)C
reactant | 4-fluorophenylmagnesium bromide tetrahydrofuran | 300 mL | FC1=CC=C(C=C1)[Mg]Br.O1CCCC1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 700 mL | O1CCCC1 | C4H8O
product | t-butyl N-[(1S)-2-(4-fluorophenyl)-1-methyl-2-oxoethyl]carbamate | 57.75 g | FC1=CC=C(C=C1)C([C@H](C)NC(OC(C)(C)C)=O)=O | C14H18FNO3
